### PR TITLE
Split sym1 into smaller tactics

### PR DESCRIPTION
**Pull request by aqjune-aws**
### Description:

A macro-style tactic is chosen instead of the monad style so that developers can easily extend the tactics. However, this will change for a small set of tactics if they need more fine-grained manipulations.

### License:

By submitting this pull request, I confirm that my contribution is
made under the terms of the Apache 2.0 license.

### CODE REVIEW

File: Tactics/Sym.lean [hunk 1]
```diff
@@ -23,3 +25,158 @@ macro_rules
...
+        rw [$h_step:ident]; simp_all
+      -- Q: How can we automatically infer the next PC?
+      have $h_pc_new:ident: r StateField.PC $st_next:ident = $pc_next:term := by
+        rw [$h_step:ident,$h_pc:ident]; simp; simp (config := {ground := true})
+      have $h_sp_aligned_new:ident: CheckSPAlignment $st_next:ident = true := by
+        unfold CheckSPAlignment at *
+        rw [$h_step:ident]
+        simp
+        simp at $h_sp_aligned:ident
+        sorry
```
Comment (aqjune-aws) [inline Tactics/Sym.lean:116]: https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/Simplifying.20a.20bitvector.20constant/near/422077748

File: Proofs/Sha512_block_armv8.lean [hunk 2]
```diff
@@ -4,6 +4,7 @@ Released under Apache 2.0 license as described in the file LICENSE.
 Author(s): Shilpi Goel
 -/
 import Arm.Exec
+import Arm.State
```
Comment (shigoel) [inline Proofs/Sha512_block_armv8.lean:7]: I'm curious why this import was needed. `Arm.Exec` should already import `Arm.State`.

File: Proofs/Sha512_block_armv8.lean [hunk 3]
```diff
@@ -94,37 +99,18 @@ def sha512_program_test_3 : program :=
...
-  · rename_i h; simp (config := {ground := true}) at h
-  · unfold run
-    simp [stepi, *]
-    rw [fetch_inst_from_rbmap_program h_program]
-    -- (FIXME) Here I run into a similar situation, where we are
-    -- matching on Std.RBMap.find? with ground terms and simp/ground
-    -- fails.
-    sorry
+
+theorem sha512_block_armv8_test_3_sym (s0 s_final : ArmState)
```
Comment (shigoel) [inline Proofs/Sha512_block_armv8.lean:103]: Could you please create another version of this theorem (say `sha512_block_armv8_test_3_sym_fail`) which retains the proof attempt from earlier? The comments in that proof attempt can help keep track of improvements to simp/ground.

File: Tactics/Sym.lean [hunk 4]
```diff
@@ -23,3 +25,158 @@ macro_rules
...
+  cases n
+  · cases h_nonneg
+  · rename_i n
+    simp [run]
+
+-- TODO: replace this with an upcoming new lemma in Std
+theorem Std.BitVec.foldCtor : { toFin := { val := a, isLt := h } : BitVec n } = BitVec.ofNat n a := by
+  simp [BitVec.ofNat, Fin.ofNat', h, Nat.mod_eq_of_lt]
+
+theorem write_mem_bytes_program {n:ℕ} (addr:BitVec 64) (bytes:BitVec (n * 8)):
```
Comment (shigoel) [inline Tactics/Sym.lean:41]: `write_mem_bytes_program` would fit better in `Arm/Memory.lean` along with other similar lemmas. See, e.g., https://github.com/leanprover/LNSym/blob/16b24c69e0e93ac2f2e9dae828283f952e003bb9/Arm/Memory.lean#L74.

Comment (shigoel) [reply Tactics/Sym.lean:41]: Another minor thing: for uniformity, it'd be nice to have a space between the var and its type. E.g.: `(addr : BitVec 64)` instead of `(addr:BitVec 64)`.

File: Tactics/Sym.lean [hunk 5]
```diff
@@ -23,3 +25,158 @@ macro_rules
...
+    (write_mem_bytes n addr bytes s).program = s.program := by
+  intros
+  induction n generalizing addr s
+  · simp [write_mem_bytes]
+  · rename_i n h_n
+    simp [write_mem_bytes]
+    rw [h_n]
+    simp [write_mem]
+
+theorem w_program (sf:StateField) (v:state_value sf) (s:ArmState):
```
Comment (shigoel) [inline Tactics/Sym.lean:51]: `w_program` would fit better in `Arm/State.lean`, perhaps after this lemma: https://github.com/leanprover/LNSym/blob/16b24c69e0e93ac2f2e9dae828283f952e003bb9/Arm/State.lean#L287.

File: Tactics/Sym.lean (hunk 1 above)
Comment (shigoel) [reply Tactics/Sym.lean:116]: Indeed -- adding some context in the code as a comment would be helpful, as would explaining how new Lean feature(s) would solve this problem.

File: Proofs/Sha512_block_armv8.lean (hunk 2 above)
Comment (aqjune-aws) [reply Proofs/Sha512_block_armv8.lean]: It was introduced while I was trying to resolve some error. Removed now

**Comment by aqjune-aws** [comment]
Comments addressed.

**Review by shigoel — APPROVED** [review]
Thank you!
